US07825253B2
3,5-Difluoro-N-[2-(indan-4-ylamino)-quinolin-5-yl]-benzene sulfonamide
The title compound, MS: m/e=452.0 (M+H+), was prepared in accordance with the general method of example 89 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonylchloride and 4-aminoindane.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonylchloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 4-aminoindane | NC1=C2CCCC2=CC=C1 | C9H11N
product | 3,5-Difluoro-N-[2-(indan-4-ylamino)-quinolin-5-yl]-benzene sulfonamide | FC=1C=C(C=C(C1)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1=C2CCCC2=CC=C1 | C24H19F2N3O2S
